US09447039B2
Preparation of N-(4,4-Dimethylcyclohexyl)-4,6-difluoro-1H-indole-2-carboxamide (2A)
A mixture of 4,6-difluoro-1H-indole-2-carboxylic acid (5 g, 25.36 mmol×4 batches) and 4,4-dimethylcyclohexylamine.HCl (I-6b: 4.6 g, 28.10 mmol, for each batch) in dry DMF (75 mL) was cooled to 0° C. and HATU (11.62 g, 30.57 mmol, for each batch) was added followed by DIPEA (22 mL, 127.9 mmol, for each batch) drop-wise and the mixture was stirred under inert atmosphere at room temperature for 17h. Ice-cold water (50 mL) was added to the reaction mixture with vigorous stirring. The precipitated solid was collected by filtration and dried thoroughly. The crude compound obtained from combining all the batches was purified by column chromatography over silica gel (100-200 mesh) using a solvent gradient of 30%-40% ethyl acetate in hexanes as eluent to afford 23 g of off-white solid. It was triturated with ether/hexanes (3:7) in five cycles to afford 20.6 g (66.2%) of 4,6-difluoro-N-(4,4-dimethylcyclohexyl)-1H-indole-2-carboxamide (2A) as an white solid.

reactant | 4,6-difluoro-1H-indole-2-carboxylic acid | 25.36 mmol, 5 g | FC1=C2C=C(NC2=CC(=C1)F)C(=O)O | C9H5F2NO2
reactant | 4,4-dimethylcyclohexylamine | CC1(CCC(CC1)N)C | C8H17N
reactant | HCl | Cl | ClH
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | N-(4,4-Dimethylcyclohexyl)-4,6-difluoro-1H-indole-2-carboxamide | 23 g | CC1(CCC(CC1)NC(=O)C=1NC2=CC(=CC(=C2C1)F)F)C | C17H20F2N2O
